US05519034
N,N,N',N'-Tetramethylethylenediamine (231.4 g) was added at ambient temperature to a solution of n-butyl lithium (2.5M, 800 ml) in hexane (2.5 l) followed by a solution of 2,3-dihydrobenzo[b]furan (102 g) in hexane (25 ml). The mixture was stirred under nitrogen at ambient temperature for 5 hours. The resulting suspension was added slowly to dry ice (300 g) and hexane (500 ml) under nitrogen. After stirring at ambient temperature for 16 hours, the mixture was diluted with water (2 l), and the layers separated. The aqueous layer was washed with hexane, acidified to pH 1 with concentrated hydrochloric acid, cooled and the precipitate collected by filtration. This was washed with water and dichloromethane and dried at 80° C. in vacuo to give 2,3-dihydrobenzo[b]furan-7-carboxylic acid (39.6 g), m.p. 164°-165° C. The hexane layer was filtered, dried over sodium sulphate and concentrated. On cooling, further product was obtained (32.7 g), m.p. 170° C.

reactant | N,N,N',N'-Tetramethylethylenediamine | 231.4 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 2.5M, 800 ml | C(CCC)[Li]
reactant | 2,3-dihydrobenzo[b]furan | 102 g | O1C2=C(CC1)C=CC=C2 | C8H8O
reactant | dry ice | 300 g | C(=O)=O | CO2
solvent | hexane | 2.5 l | CCCCCC | C6H14
solvent | hexane | 25 ml | CCCCCC | C6H14
solvent | water | 2 l | O | H2O
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 2,3-dihydrobenzo[b]furan-7-carboxylic acid | 39.6 g | O1C2=C(CC1)C=CC=C2C(=O)O | C9H8O3
